US05811582
(Z)-(RS)-3-[1-(2-dimethylamino-1-methyl-ethyl)-propenyl]-phenol hydrochloride (3)
182 g (Z)-(RS)-[3-(3-methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethylamine, dissolved in 360 ml toluene, were added drop-wise at room temperature to 1.6 l of a 20 weight % solution of diisobutylaluminium hydride in toluene. The mixture was then heated for 11 hours under reflux. After cooling to 0° C., 450 ml ethanol were added drop-wise with cooling. The mixture was then stirred for 15 minutes and diluted with 1 l toluene. Thereafter, 450 ml of an ethanol/water mixture (1:1) were added drop-wise with cooling. After stirring for one hour at room temperature, the precipitated aluminium hydroxide was filtered off under suction and the solvent was removed from the organic phase by distillation. 167 g (97.6% theoretical) of crude base were obtained, which were dissolved in 1.67 l acetone and treated with 65 ml of concentrated hydrochloric acid. 152 g (76% theoretical) of hydrochloride (3) crystallised out, and had a melting point of 161°-162° C.

reactant | (Z)-(RS)-[3-(3-methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethylamine | 182 g | COC=1C=C(C=CC1)\C(\C(CN(C)C)C)=C/C | C15H23NO
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethanol | 450 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 65 ml | Cl | ClH
solvent | toluene | 360 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 1.67 l | CC(=O)C | C3H6O
solvent | ethanol water | 450 ml | C(C)O.O
product | (Z)-(RS)-3-[1-(2-dimethylamino-1-methyl-ethyl)-propenyl]-phenol hydrochloride | Cl.CN(CC(C)/C(=C/C)/C=1C=C(C=CC1)O)C | InChI=1S/C14H21NO.ClH/c1-5-14(11(2)10-15(3)4)12-7-6-8-13(16)9-12;/h5-9,11,16H,10H2,1-4H3;1H/b14-5-;
